US08748624B2
STEP E: 5-(5-chloro-2-(((4′-chloro-[1,1′-biphenyl]-4-yl)(methyl)amino)methyl)phenyl)picolinic acid
A 3M aqueous solution of NaOH (0.47 mL, 1.42 mmol) was added to a THF (2 mL) and MeOH (1 mL) solution of methyl 5-(5-chloro-2-(((4′-chloro-[1,1′-biphenyl]-4-yl)(methyl)amino)methyl)phenyl)picolinate (226 mg, 0.47 mmol) and the resulting homogeneous mixture was stirred at room temperature. After 16 h the resulting mixture was concentrated in vacuo, suspended in water, and acidified with 2 M HCl. The resulting precipitate was filtered off and dried in vacuo to yield the title compound.

reactant | NaOH | 1.42 mmol, 0.47 mL | [OH-].[Na+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | methyl 5-(5-chloro-2-(((4′-chloro-[1,1′-biphenyl]-4-yl)(methyl)amino)methyl)phenyl)picolinate | 0.47 mmol, 226 mg | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)OC)CN(C)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C27H22Cl2N2O2
solvent | MeOH | 1 mL | CO | CH4O
product | 5-(5-chloro-2-(((4′-chloro-[1,1′-biphenyl]-4-yl)(methyl)amino)methyl)phenyl)picolinic acid | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)O)CN(C)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C26H20Cl2N2O2
